US08735414B2
A solution of SO2 was prepared by adding thionyl chloride (24.2 mL) into stirring water (144 mL) containing copper (I) chloride (87.0 mg). The solution was then stirred at room temperature overnight. 5-Amino-2-chloropyridine (10.0 g, 77.8 mmol) was added into stirring conc. aq. HCl (80 mL) portionwise. The mixture was stirred until all solid dissolved and was then cooled to −5° C. Into the mixture was added dropwise a solution of sodium nitrite (5.9 g, 85.6 mmol) dissolved in 24 mL of water while the temperature was kept between −5° C. and 0° C. The resulting mixture was stirred for 30 minutes after the completion of the addition and then added dropwise into the aqueous solution of SO2. The temperature was kept below 0° C. during the addition. After the addition the mixture was stirred for 1 h below 0° C. and then filtered. The cake was washed with ice-cold water, dissolved in CH2Cl2, dried over Na2SO4 and concentrated to give 2-chloropyridine-5-sulfonyl chloride as a grey solid (13.6 g, 82%). 1H NMR (500 MHz, CDCl3): δ 9.04 (1H, d, J=2.4 Hz), 8.27 (1H, dd, J=8.5 Hz, J=2.6 Hz), 7.62 (1H, dd, J=8.5 Hz, J=0.4 Hz).

reactant | thionyl chloride | 24.2 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 5-Amino-2-chloropyridine | 77.8 mmol, 10.0 g | NC=1C=CC(=NC1)Cl | C5H5ClN2
reactant | HCl | 80 mL | Cl | ClH
reactant | sodium nitrite | 85.6 mmol, 5.9 g | N(=O)[O-].[Na+]
solvent | water | 24 mL | O | H2O
catalyst | copper (I) chloride | 87.0 mg | [Cu]Cl
solvent | water | 144 mL | O | H2O
product | 2-chloropyridine-5-sulfonyl chloride | 13.6 g, 82% | ClC1=NC=C(C=C1)S(=O)(=O)Cl | C5H3Cl2NO2S
